US09328111B2
A mixture of ethyl 1-benzyl-3-oxopiperidine-4-carboxylate (16.1 g, 70 mmol), methyl 3-amino-4-bromobenzoate (21.9 g, 84 mmol), polyphosphoric acid (120 g) and dioxane (120 mL) was heated at 110° C. for 4 hours. After cooling to room temperature, the mixture was poured into ice water, filtered and the filtrate was extracted with EtOAc (500 mL×3). The combined organic layers were dried, and concentrated to give crude residue, which was chromatographed on silica gel using gradient eluant of 20% to 50% ethyl acetate in petroleum ether to give the crude product. Then the crude product was dissolved in MeOH (1 L), TMSCl (150 mL) was added, and the mixture was stirred at reflux for 12 h. After cooling to room temperature, the solvent was evaporated and the residue was recrystallized from MeOH to afford methyl 2-benzyl-9-bromo-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate (7.6 g). 1H NMR (CDC3-d1) δ 10.9 (s, 1H), 8.06 (d, 1H, J=7.8 Hz), 7.51-7.74 (m, 5H), 7.20 (d, 1H, J=7.8 Hz), 4.36-4.62 (m, 4H), 3.82 (s, 3H), 3.67-3.72 (m, 2H), and 2.82-2.83 (m, 2H). MS (ESI) m/e [M+1]+427.0.

reactant | ethyl 1-benzyl-3-oxopiperidine-4-carboxylate | 70 mmol, 16.1 g | C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O | C15H19NO3
reactant | methyl 3-amino-4-bromobenzoate | 84 mmol, 21.9 g | NC=1C=C(C(=O)OC)C=CC1Br | C8H8BrNO2
reactant | dioxane | 120 mL | O1CCOCC1 | C4H8O2
reactant | TMSCl | 150 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | MeOH | 1 L | CO | CH4O
product | methyl 2-benzyl-9-bromo-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate | 7.6 g | C(C1=CC=CC=C1)N1CCC=2C(C3=C(NC2C1)C(=CC=C3C(=O)OC)Br)=O | C21H19BrN2O3
